US06509472B2
(R)-2-amino-2-cyclohexyl-1,1-diphenylethanol (59 mg, 0.2 mmol), dry tetrahydrofuran (2 mL) and trimethylboroxine (27.2 μL, 0.24 mmol) were added to a dry flask under an atmosphere of nitrogen, then stirred for 1.5 hr to form a solution of (R)-4-cyclohexyl-5,5-diphenyl-2-methoxy-1,3,2-oxazaborolidine. Borane dimethylsulfide complex (100 μL, 1.0 mmol) was added and the reaction stirred for 30 minutes. Then, a solution of bromoacetophenone (199 mg, 1.0 mmol) in dry tetrahydrofuran (4 mL) was added at the rate of 9 mL/hr by means of a syringe pump. After 1.5 hr, methanol was added to quench the reaction and then, the solvent was removed by evaporation. The resulting residue was chromatographed on silica gel (hexane/ethyl acetate 20:1) and combination of the like fractions, followed by removal of the solvent gave (R)-2-bromo-1-phenylethanol (130 mg, 98.7% ee). The enantiomeric excess was measured by HPLC (Chiralcel OD-H column, mobile phase, hexane/2-propanol 9:1, flow rate=0.7 mL/min).

reactant | (R)-2-amino-2-cyclohexyl-1,1-diphenylethanol | 0.2 mmol, 59 mg | N[C@@H](C(O)(C1=CC=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C20H25NO
reactant | trimethylboroxine | 0.24 mmol, 27.2 μL | CB1OB(OB(O1)C)C | C3H9B3O3
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | (R)-4-cyclohexyl-5,5-diphenyl-2-methoxy-1,3,2-oxazaborolidine | C1(CCCCC1)[C@H]1NB(OC1(C1=CC=CC=C1)C1=CC=CC=C1)OC | C21H26BNO2
